US03984560
26.1 Grams (0.1 mol) of 1-methyl-2-benzoyloxymethyl-5-nitro-imidazole were dissolved while stirring in 150 ml of dimethylformamide; then 11.1 g (0.1 mol) of 2-mercaptopyridine and 13.8 g of potash (free from water and powdered) were added. A very faintly exothermic reaction was perceptible only. The reaction mixture was heated to 80°C for 1 hour, whereupon the color of the mixture changed from yellow toward light brown and a white precipitate formed. The mixture was then cooled to room temperature and the end product was precipitated by stirring it into about 500 ml of ice water. The product was suction-filtered, thoroughly washed with water and recrystallized from about 3000 ml of isopropanol. 18.0 Grams (72 % of the theoretical yield) of 1-methyl-2-(2-pyridylthiomethyl)-5-nitro-imidazole were obtained as a faintly yellow crystallized powder, m.p. 146°-147°C.

reactant | 1-methyl-2-benzoyloxymethyl-5-nitro-imidazole | 0.1 mol | CN1C(=NC=C1[N+](=O)[O-])COC(C1=CC=CC=C1)=O | C12H11N3O4
reactant | 2-mercaptopyridine | 0.1 mol, 11.1 g | SC1=NC=CC=C1 | C5H5NS
reactant | potash | 13.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-methyl-2-(2-pyridylthiomethyl)-5-nitro-imidazole | CN1C(=NC=C1[N+](=O)[O-])CSC1=NC=CC=C1 | C10H10N4O2S
